US03975524
1-Thiomorpholino-3-chloro-5-methyl-isoquinoline
A mixture of 23.3 gm (0.11 mol) of 1,3-dichloro-5-methyl-isoquinoline [prepared according to G. Simchen et al, Chem. Ber. 102, 3666 (1969); m.p. 120°C], 28.3 gm (0.275 mol) of thiomorpholine and 110 ml of dry dioxane was refluxed for 4 hours. The mixture was then evaporated, the residue was taken up with a mixture of tolune and water, and the toluene phase was isolated, dried and evaporated. The residue was recrystallized from 100 ml of ethyl acetate, yielding 22.7 gm (72% of theory) of the desired compound, m.p. 134°-136°C.

reactant | 1,3-dichloro-5-methyl-isoquinoline | 0.11 mol, 23.3 gm | ClC1=NC(=CC2=C(C=CC=C12)C)Cl | C10H7Cl2N
reactant | thiomorpholine | 0.275 mol, 28.3 gm | N1CCSCC1 | C4H9NS
solvent | dioxane | 110 ml | O1CCOCC1 | C4H8O2
product | 1-Thiomorpholino-3-chloro-5-methyl-isoquinoline | S1CCN(CC1)C1=NC(=CC2=C(C=CC=C12)C)Cl | C14H15ClN2S
